US07642264B2
5-{2-Methyl-1-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyridin-2-ylamine
The title compound was prepared from 2-(4-bromo-2-methyl-imidazol-1-yl)-4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidine (example E.64) (0.2 g, 0.5 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.14 g, 0.65 mmol) according to the general procedure VI. Obtained as a light yellow solid (0.11 g, 55%). MS (ISP) 411.0 [(M+H)+]; mp 227.5° C.

reactant | 2-(4-bromo-2-methyl-imidazol-1-yl)-4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | 0.5 mmol, 0.2 g | BrC=1N=C(N(C1)C1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F)C | C16H12BrF3N4
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.65 mmol, 0.14 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
product | 5-{2-Methyl-1-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyridin-2-ylamine | CC=1N(C=C(N1)C=1C=CC(=NC1)N)C1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F | C21H17F3N6
